### PR TITLE
[Merged by Bors] - feat(RingTheory/Morita/Matrix): more on morita equivalence between `R` and `Mn(R)`

### PR DESCRIPTION
**Pull request by Whysoserioushah**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Morita/Matrix.lean [hunk 1]
```diff
@@ -35,3 +38,158 @@ def ModuleCat.toMatrixModCat : ModuleCat R ⥤ ModuleCat (Matrix ι ι R) where
...
+
+namespace MatrixModCat.toModuleCat
+
+open Matrix
+
+variable [Inhabited ι] {M : Type*} [AddCommGroup M] [Module (Matrix ι ι R) M]
+
+variable (M) in
+private def α : AddSubgroup M :=
+  DistribMulAction.toAddMonoidHom M (single default default 1 : Matrix ι ι R)|>.range
```
Comment (erdOne) [inline Mathlib/RingTheory/Morita/Matrix.lean]: I think you should just assume `[Module R M] [IsScalarTower R (Matrix ι ι R) M]`, and define this as a `Submodule R M`.

(and then `let := Module.compHom M some_map` later)

Comment (erdOne) [reply Mathlib/RingTheory/Morita/Matrix.lean]: Also this should not be private if it appears at the RHS of simp lemmas.

File: Mathlib/RingTheory/Morita/Matrix.lean [hunk 2]
```diff
@@ -35,3 +38,158 @@ def ModuleCat.toMatrixModCat : ModuleCat R ⥤ ModuleCat (Matrix ι ι R) where
...
+  map_add' := by simp
+  map_smul' := by simp [Subtype.ext_iff]
+
+end MatrixModCat.toModuleCat
+
+variable [Inhabited ι]
+
+/-- the functor from Module Cat of `Mₙ(R)` to Module Cat of `R` induced by sending `M` to
+  the image of `E₁₁ • ·` where `E₁₁` is the elementary matrix -/
+@[simp]
```
Comment (erdOne) [inline Mathlib/RingTheory/Morita/Matrix.lean]:
```suggestion
@[simps]
```

File: Mathlib/RingTheory/Morita/Matrix.lean [hunk 3]
```diff
@@ -7,31 +7,142 @@ module
...
+-- set_option pp.universes true in
+/-- the functor from Module Cat of `Mₙ(R)` to Module Cat of `R` induced by sending `M` to
+  the image of `E₁₁ • ·` where `E₁₁` is the elementary matrix -/
+@[simps]
+def MatrixModCat.toModuleCat : ModuleCat (Matrix ι ι R) ⥤ ModuleCat R :=
+  letI (M : ModuleCat (Matrix ι ι R)) := Module.compHom M (Matrix.scalar (α := R) ι)
+  letI (M : ModuleCat (Matrix ι ι R)) : IsScalarTower R (Matrix ι ι R) M := {
+      smul_assoc r m x := by
+        change _ = (Matrix.scalar ι r) • (m • x)
+        rw [← mul_smul, Matrix.scalar_apply, Matrix.smul_eq_diagonal_mul]}
```
Comment (erdOne) [inline Mathlib/RingTheory/Morita/Matrix.lean]:
```suggestion
  haveI (M : ModuleCat (Matrix ι ι R)) : IsScalarTower R (Matrix ι ι R) M :=
    { smul_assoc r m x := show _ = (Matrix.scalar ι r) • (m • x) by
        rw [← mul_smul, Matrix.scalar_apply, Matrix.smul_eq_diagonal_mul] }
```

File: Mathlib/RingTheory/Morita/Matrix.lean [hunk 4]
```diff
@@ -7,31 +7,142 @@ module
...
+open MatrixModCat.toModuleCat Matrix
+
+/-- The linear equiv induced by the equality `toModuleCat (toMatrixModCat M) = E₁₁ • Mⁿ` -/
+def fromModuleCatToModuleCatLinearEquivtoModuleCatObj (M : Type*) [AddCommGroup M] [Module R M] :
+    (ModuleCat.toMatrixModCat R ι ⋙ MatrixModCat.toModuleCat R ι).obj (.of R M) ≃ₗ[R]
+    MatrixModCat.toModuleCat.toModuleCatObj R ι (ι → M) where
+  __ := AddEquiv.refl _
+  map_smul' r x := by
+    dsimp at x
+    dsimp
```
Comment (erdOne) [inline Mathlib/RingTheory/Morita/Matrix.lean]:
```suggestion
    dsimp at x ⊢
```

File: Mathlib/RingTheory/Morita/Matrix.lean [hunk 5]
```diff
@@ -7,31 +7,142 @@ module
...
-variable (R ι : Type*) [Ring R] [Fintype ι] [DecidableEq ι]
+variable (R : Type u) (ι : Type v) [Ring R] [Fintype ι] [DecidableEq ι]
 
 open CategoryTheory Matrix.Module
 
 /-- The functor from `Mod-R` to `Mod-Mₙ(R)` induced by `LinearMap.mapModule` and
   `Matrix.matrixModule`. -/
 @[simps]
-def ModuleCat.toMatrixModCat : ModuleCat R ⥤ ModuleCat (Matrix ι ι R) where
+public def ModuleCat.toMatrixModCat : ModuleCat R ⥤ ModuleCat (Matrix ι ι R) where
```
Comment (erdOne) [inline Mathlib/RingTheory/Morita/Matrix.lean]:
```suggestion
def ModuleCat.toMatrixModCat : ModuleCat R ⥤ ModuleCat (Matrix ι ι R) where
```

File: Mathlib/RingTheory/Morita/Matrix.lean [hunk 6]
```diff
@@ -7,31 +7,142 @@ module
...
   obj M := ModuleCat.of (Matrix ι ι R) (ι → M)
   map f := ModuleCat.ofHom <| f.hom.mapMatrixModule ι
   map_id _ := ModuleCat.hom_ext <| LinearMap.mapMatrixModule_id
   map_comp f g := ModuleCat.hom_ext (LinearMap.mapMatrixModule_comp f.hom g.hom)
+
+namespace MatrixModCat.toModuleCat
```
Comment (erdOne) [inline Mathlib/RingTheory/Morita/Matrix.lean]:
```suggestion
namespace MatrixModCat
```
I think this namespace is enough.

File: Mathlib/RingTheory/Morita/Matrix.lean [hunk 7]
```diff
@@ -7,31 +7,142 @@ module
...
+@[simp]
+lemma toModuleCatObj_mem (x : M) : x ∈ toModuleCatObj R ι M ↔ ∃ y : M,
+    (single default default 1 : Matrix ι ι R) • y = x :=
+  Iff.rfl
+
+variable {R ι} in
+/-- An `R`-linear map between `E₁₁ • M` and `E₁₁ • N` induced by an `Mₙ(R)`-linear map
+  from `M` to `N` -/
+@[simps]
+def _root_.LinearMap.fromMatrixLinear {N : Type*} [AddCommGroup N] [Module (Matrix ι ι R) N]
```
Comment (erdOne) [inline Mathlib/RingTheory/Morita/Matrix.lean]: I prefer having this in the `MatrixModCat` namespace as well (e.g. `MatrixModCat.toModuleCatMap`)

File: Mathlib/RingTheory/Morita/Matrix.lean [hunk 8]
```diff
@@ -7,31 +7,142 @@ module
...
+    · simp only [← hy, single, smul_def, of_apply, ite_smul, one_smul, zero_smul, h,
+      true_and, Finset.sum_ite_eq, Finset.mem_univ, ↓reduceIte]
+      rw [Finset.sum_eq_single default (by
+        simpa using fun b hb ↦ Finset.sum_eq_zero (ι := ι) (by grind)) (by simp)]
+      simp
+    · simp [← hy, single, Ne.symm h]
+  right_inv x := by simp [Function.update_apply]
+
+/-- the natural isomorphism showing that `toModuleCat` compose with `fromModuleCat` gives `id` -/
+def matrix.unitIso :
```
Comment (erdOne) [inline Mathlib/RingTheory/Morita/Matrix.lean]:
```suggestion
def MatrixModCat.unitIso :
```
maybe?

File: Mathlib/RingTheory/Morita/Matrix.lean [hunk 9]
```diff
@@ -35,3 +39,108 @@ def ModuleCat.toMatrixModCat : ModuleCat R ⥤ ModuleCat (Matrix ι ι R) where
...
+  map_smul' := by simp
+
+
+end MatrixModCat
+
+variable [Inhabited ι]
+
+universe w
+
+-- set_option pp.universes true in
```
Comment (erdOne) [inline Mathlib/RingTheory/Morita/Matrix.lean]:
```suggestion
```

File: Mathlib/RingTheory/Morita/Matrix.lean [hunk 10]
```diff
@@ -35,3 +39,108 @@ def ModuleCat.toMatrixModCat : ModuleCat R ⥤ ModuleCat (Matrix ι ι R) where
...
+  smul_mem' r {m} := by simpa using fun x h ↦ ⟨r • x, by
+    rw [← h, ← smul_assoc r, Matrix.smul_eq_diagonal_mul, show (diagonal fun x : ι ↦ r) *
+      single _ _ 1 = single default default 1 * diagonal (fun _ ↦ r) by ext; simp [Matrix.single],
+      SemigroupAction.mul_smul, ← Matrix.smul_one_eq_diagonal]
+    nth_rw 1 [← one_smul (Matrix ι ι R) x]
+    rw [smul_assoc]⟩
+
+variable {R ι} in
+@[simp]
+lemma toModuleCatObj_mem (x : M) : x ∈ toModuleCatObj R ι M ↔ ∃ y : M,
```
Comment (erdOne) [inline Mathlib/RingTheory/Morita/Matrix.lean]:
```suggestion
lemma mem_toModuleCatObj {x : M} : x ∈ toModuleCatObj R ι M ↔ ∃ y : M,
```

File: Mathlib/RingTheory/Morita/Matrix.lean [hunk 11]
```diff
@@ -35,3 +39,108 @@ def ModuleCat.toMatrixModCat : ModuleCat R ⥤ ModuleCat (Matrix ι ι R) where
...
+    split_ifs with h
+    · simp only [← hy, single, smul_def, of_apply, ite_smul, one_smul, zero_smul, h,
+      true_and, Finset.sum_ite_eq, Finset.mem_univ, ↓reduceIte]
+      rw [Finset.sum_eq_single default (by
+        simpa using fun b hb ↦ Finset.sum_eq_zero (ι := ι) (by grind)) (by simp)]
+      simp
+    · simp [← hy, single, Ne.symm h]
+  right_inv x := by simp [Function.update_apply]
+
+/-- the natural isomorphism showing that `toModuleCat` compose with `fromModuleCat` gives `id` -/
```
Comment (erdOne) [inline Mathlib/RingTheory/Morita/Matrix.lean]:
```suggestion
/-- the natural isomorphism showing that `toModuleCat` is the left inverse of `toMatrixModCat` -/
```

File: Mathlib/RingTheory/Morita/Matrix.lean (hunk 7 above)
Comment (Whysoserioushah) [reply Mathlib/RingTheory/Morita/Matrix.lean]: changed

File: Mathlib/RingTheory/Morita/Matrix.lean [hunk 12]
```diff
@@ -35,3 +39,107 @@ def ModuleCat.toMatrixModCat : ModuleCat R ⥤ ModuleCat (Matrix ι ι R) where
...
+variable (M) in
+/-- The image of `E₁₁` (the elementary matrix) acting on all elements in `M`. -/
+def toModuleCatObj : Submodule R M where
+  __ := DistribMulAction.toAddMonoidHom M (single default default 1 : Matrix ι ι R)|>.range
+  smul_mem' r {m} := by simpa using fun x h ↦ ⟨r • x, by
+    rw [← h, ← smul_assoc r, Matrix.smul_eq_diagonal_mul, show (diagonal fun x : ι ↦ r) *
+      single _ _ 1 = single default default 1 * diagonal (fun _ ↦ r) by ext; simp [Matrix.single],
+      SemigroupAction.mul_smul, ← Matrix.smul_one_eq_diagonal]
+    nth_rw 1 [← one_smul (Matrix ι ι R) x]
+    rw [smul_assoc]⟩
```
Comment (eric-wieser) [inline Mathlib/RingTheory/Morita/Matrix.lean]: Perhaps nicer to build the map first:
```suggestion
def toModuleCatObj : Submodule R M :=
  LinearMap.range (τ₁₂ := .id _) <|
    { __ := DistribMulAction.toAddMonoidHom M (single default default 1 : Matrix ι ι R)
      map_smul' r x := by
        dsimp
        rw [← smul_assoc r, Matrix.smul_eq_diagonal_mul, show (diagonal fun x : ι ↦ r) *
          single _ _ 1 = single default default 1 * diagonal (fun _ ↦ r) by ext; simp [Matrix.single],
          SemigroupAction.mul_smul, ← Matrix.smul_one_eq_diagonal]
        nth_rw 1 [← one_smul (Matrix ι ι R) x]
        rw [smul_assoc] }
```

Comment (Whysoserioushah) [reply Mathlib/RingTheory/Morita/Matrix.lean]: sure!

File: Mathlib/RingTheory/Morita/Matrix.lean [hunk 13]
```diff
@@ -35,3 +39,110 @@ def ModuleCat.toMatrixModCat : ModuleCat R ⥤ ModuleCat (Matrix ι ι R) where
...
+
+namespace MatrixModCat
+
+open Matrix
+
+variable [Inhabited ι] {M : Type*} [AddCommGroup M] [Module (Matrix ι ι R) M] [Module R M]
+  [IsScalarTower R (Matrix ι ι R) M]
+
+variable (M) in
+/-- The image of `E₁₁` (the elementary matrix) acting on all elements in `M`. -/
```
Comment (eric-wieser) [inline Mathlib/RingTheory/Morita/Matrix.lean]: Do you really want to specialize to `₁₁` here? I'd suggest replacing `default` below (throughout) with an `i` argument

Comment (Whysoserioushah) [reply Mathlib/RingTheory/Morita/Matrix.lean]: I highly doubt one would ever need to change the index, if that's not needed then changing it from `default` to `i` only adds extra steps?

Comment (eric-wieser) [reply Mathlib/RingTheory/Morita/Matrix.lean]: I would lean towards changing it; `(i : I)` is shorter to write than `[Inhabited I]` and `i` is shorter than `default`!

Comment (erdOne) [reply Mathlib/RingTheory/Morita/Matrix.lean]: I don't think the flexibility of changing `i` matters. Any such two functors are isomorphic. One could even change `[Inhabited I]` to `[Nonempty I]` and just use `some`. 

But I also don't think there are any downside in changing it. 

I just hope that this issue doesn't block this PR and it doesn't really matter to me which way it resolves.

File: Mathlib/RingTheory/Morita/Matrix.lean [hunk 14]
```diff
@@ -6,24 +6,28 @@ Authors: Yunzhou Xie, Jujian Zhang
 module
 
 public import Mathlib.Algebra.Category.ModuleCat.Basic
+public import Mathlib.Data.Matrix.Basis
 public import Mathlib.LinearAlgebra.Matrix.Module
 
+
```
Comment (erdOne) [inline Mathlib/RingTheory/Morita/Matrix.lean]:
```suggestion

```

File: Mathlib/RingTheory/Morita/Matrix.lean (hunk 13 above)
Comment (Whysoserioushah) [reply Mathlib/RingTheory/Morita/Matrix.lean]: > I would lean towards changing it; `(i : I)` is shorter to write than `[Inhabited I]` and `i` is shorter than `default`!

My point here is that if I now have an `Inhabited I` then replacing default with `i` means I;ll have to do choosing and that is the extra step I was saying :-)

Comment (eric-wieser) [reply Mathlib/RingTheory/Morita/Matrix.lean]: You wouldn't need to do any choosing, you'd pass the argument up to the caller.



> Any such two functors are isomorphic.

Passing `i` explicitly makes it possible to state this isomorphism :)

Comment (eric-wieser) [reply Mathlib/RingTheory/Morita/Matrix.lean]: My other claim here is that `E₁₁` is a more confusing docstring than `E_ii` would be, since `1` appears nowhere in the code

Comment (Whysoserioushah) [reply Mathlib/RingTheory/Morita/Matrix.lean]: sure I'll change it then

File: Mathlib/RingTheory/Morita/Matrix.lean [hunk 15]
```diff
@@ -35,3 +37,110 @@ def ModuleCat.toMatrixModCat : ModuleCat R ⥤ ModuleCat (Matrix ι ι R) where
...
+    simp [Matrix.scalar_apply, Matrix.diagonal_apply]
+
+/-- auxilary isomorphism showing that compose two functors gives `id` on objects. -/
+@[simps]
+def fromModuleCatToModuleCatLinearEquiv (M : Type*) [AddCommGroup M] [Module R M] (i : ι) :
+    MatrixModCat.toModuleCatObj R ι (ι → M) i ≃ₗ[R] M where
+  toFun x := ∑ i : ι, x.1 i
+  map_add' := by simp [Finset.sum_add_distrib]
+  map_smul' r := fun ⟨x, hx⟩ ↦ by simp [Finset.smul_sum]
+  invFun x := ⟨Function.update 0 i x, Function.const ι x, by
```
Comment (eric-wieser) [inline Mathlib/RingTheory/Morita/Matrix.lean]:
```suggestion
  invFun x := ⟨Pi.single i x, Function.const ι x, by
```

File: Mathlib/RingTheory/Morita/Matrix.lean [hunk 16]
```diff
@@ -6,24 +6,26 @@ Authors: Yunzhou Xie, Jujian Zhang
...
 public import Mathlib.LinearAlgebra.Matrix.Module
-
 /-!
 # Morita Equivalece between `R` and `Mₙ(R)`
 
 ## Main definitions
 - `ModuleCat.toMatrixModCat`: The functor from `Mod-R` to `Mod-Mₙ(R)` induced by
   `LinearMap.mapMatrixModule` and `Matrix.Module.matrixModule`.
+- `MatrixModCat.toModuleCat`: The functor from `Mod-Mₙ(R)` to `Mod-R` induced by sending `M` to
+  the image of `E₁₁ • ·` where `E₁₁` is the elementary matrix.
```
Comment (eric-wieser) [inline Mathlib/RingTheory/Morita/Matrix.lean]:
```suggestion
  the image of `Eᵢᵢ • ·` where `Eᵢᵢ` is the elementary matrix.
```
and throughout

File: Mathlib/RingTheory/Morita/Matrix.lean [hunk 17]
```diff
@@ -35,3 +37,110 @@ def ModuleCat.toMatrixModCat : ModuleCat R ⥤ ModuleCat (Matrix ι ι R) where
...
+        dsimp
+        rw [← smul_assoc r, Matrix.smul_eq_diagonal_mul, show (diagonal fun x : ι ↦ r) *
+          single _ _ 1 = single i i 1 * diagonal (fun _ ↦ r) by
+          ext; simp [Matrix.single], SemigroupAction.mul_smul, ← Matrix.smul_one_eq_diagonal]
+        nth_rw 1 [← one_smul (Matrix ι ι R) x]
+        rw [smul_assoc] }
+
+variable {R ι} in
+@[simp]
+lemma mem_toModuleCatObj (i : ι) {x : M} : x ∈ toModuleCatObj R ι M i ↔ ∃ y : M,
```
Comment (eric-wieser) [inline Mathlib/RingTheory/Morita/Matrix.lean]: May as well make iota an implicit argument
```suggestion
lemma mem_toModuleCatObj (i : ι) {x : M} : x ∈ toModuleCatObj R M i ↔ ∃ y : M,
```

File: Mathlib/RingTheory/Morita/Matrix.lean [hunk 18]
```diff
@@ -35,3 +37,110 @@ def ModuleCat.toMatrixModCat : ModuleCat R ⥤ ModuleCat (Matrix ι ι R) where
...
+  toFun x := ⟨f x.1, by obtain ⟨y, hy⟩ := mem_toModuleCatObj i|>.1 x.2; simp [← hy]⟩
+  map_add' := by simp
+  map_smul' := by simp
+
+
+end MatrixModCat
+
+universe w
+
+/-- the functor from Module Cat of `Mₙ(R)` to Module Cat of `R` induced by sending `M` to
```
Comment (eric-wieser) [inline Mathlib/RingTheory/Morita/Matrix.lean]:
```suggestion
/-- The functor from Module Cat of `Mₙ(R)` to Module Cat of `R` induced by sending `M` to
```
I'm also not sure that "from Module Cat" is good English here

Comment (Whysoserioushah) [reply Mathlib/RingTheory/Morita/Matrix.lean]: module category?

Comment (eric-wieser) [reply Mathlib/RingTheory/Morita/Matrix.lean]: Perhaps "the category of modules over _" or "the category of _-modules"?

Comment (Whysoserioushah) [reply Mathlib/RingTheory/Morita/Matrix.lean]: sure

File: Mathlib/RingTheory/Morita/Matrix.lean [hunk 19]
```diff
@@ -35,3 +37,109 @@ def ModuleCat.toMatrixModCat : ModuleCat R ⥤ ModuleCat (Matrix ι ι R) where
...
+variable {R ι} in
+/-- An `R`-linear map between `Eᵢᵢ • M` and `Eᵢᵢ • N` induced by an `Mₙ(R)`-linear map
+  from `M` to `N` -/
+@[simps]
+def fromMatrixLinear {N : Type*} [AddCommGroup N] [Module (Matrix ι ι R) N] (i : ι)
+    [Module R N] [IsScalarTower R (Matrix ι ι R) N] [Module R M] [IsScalarTower R (Matrix ι ι R) M]
+    (f : M →ₗ[Matrix ι ι R] N) : (toModuleCatObj R M i) →ₗ[R] (toModuleCatObj R N i) where
+  toFun x := ⟨f x.1, by obtain ⟨y, hy⟩ := mem_toModuleCatObj i|>.1 x.2; simp [← hy]⟩
+  map_add' := by simp
+  map_smul' := by simp
```
Comment (eric-wieser) [inline Mathlib/RingTheory/Morita/Matrix.lean]: Perhaps cleaner as
```suggestion
    (f : M →ₗ[Matrix ι ι R] N) : toModuleCatObj R M i →ₗ[R] toModuleCatObj R N i :=
  f.restrictScalars R |>.restrict fun x hx => by
    obtain ⟨y, rfl⟩ := mem_toModuleCatObj i |>.1 hx
    exact ⟨f y, map_smul _ _ _ |>.symm⟩
```
(and changing `simps` to `simps!`)

File: Mathlib/RingTheory/Morita/Matrix.lean [hunk 20]
```diff
@@ -35,3 +37,109 @@ def ModuleCat.toMatrixModCat : ModuleCat R ⥤ ModuleCat (Matrix ι ι R) where
...
+  toFun x := ∑ i : ι, x.1 i
+  map_add' := by simp [Finset.sum_add_distrib]
+  map_smul' r := fun ⟨x, hx⟩ ↦ by simp [Finset.smul_sum]
+  invFun x := ⟨Pi.single i x, Function.const ι x, by
+    ext i
+    simp only [ZeroHom.toFun_eq_coe, AddMonoidHom.toZeroHom_coe, LinearMap.coe_mk, AddHom.coe_mk,
+      DistribMulAction.toAddMonoidHom_apply, Module.smul_apply, Function.const_apply,
+      Pi.single_apply]
+    split_ifs with h
+    · simp [h, single]
```
Comment (eric-wieser) [inline Mathlib/RingTheory/Morita/Matrix.lean]: I suspect #33547 can golf this very slightly.

Comment (Whysoserioushah) [reply Mathlib/RingTheory/Morita/Matrix.lean]: golf a bit

Comment (eric-wieser) [reply Mathlib/RingTheory/Morita/Matrix.lean]: Could you merge master so that I can try using this lemma?

Comment (Whysoserioushah) [reply Mathlib/RingTheory/Morita/Matrix.lean]: merged :-)

File: Mathlib/RingTheory/Morita/Matrix.lean [hunk 21]
```diff
@@ -35,3 +37,107 @@ def ModuleCat.toMatrixModCat : ModuleCat R ⥤ ModuleCat (Matrix ι ι R) where
...
+    MatrixModCat.toModuleCatObj R (ι → M) i ≃ₗ[R] M where
+  toFun x := ∑ i : ι, x.1 i
+  map_add' := by simp [Finset.sum_add_distrib]
+  map_smul' r := fun ⟨x, hx⟩ ↦ by simp [Finset.smul_sum]
+  invFun x := ⟨Pi.single i x, Function.const ι x, by
+    ext j
+    simp [single, Finset.sum_ite, Pi.single_apply,
+      show Finset.card {x | i = j ∧ i = x} = if i = j then 1 else 0 by
+      if h : i = j then simp [h, Finset.card_eq_one (s := {x | j = x})|>.2
+        ⟨i, by ext; simp [h, eq_comm]⟩] else simp [h], eq_comm]⟩
```
Comment (eric-wieser) [inline Mathlib/RingTheory/Morita/Matrix.lean]: Can you add the missing helper lemma here? It should live next to `Matrix.Module.smul_apply`, as something like
```lean
theorem Module.single_smul : single i j r • x = Pi.single i (r • x j)
```

Comment (eric-wieser) [reply Mathlib/RingTheory/Morita/Matrix.lean]: Here's the lemma:
```lean
@[simp]
theorem single_smul (i j : ι) (r : R) (v : ι → M) : Matrix.single i j r • v = Pi.single i (r • v j) := by
  ext i'
  dsimp
  rw [Fintype.sum_eq_single j fun j' hj => ?_]
  · obtain rfl | hi := eq_or_ne i i' <;> simp [*]
  · simp [hj.symm]
```

Comment (eric-wieser) [reply Mathlib/RingTheory/Morita/Matrix.lean]: With it `simp` closes this whole goal, and also most of the one below.

File: Mathlib/RingTheory/Morita/Matrix.lean [hunk 22]
```diff
@@ -35,3 +37,107 @@ def ModuleCat.toMatrixModCat : ModuleCat R ⥤ ModuleCat (Matrix ι ι R) where
...
+/-- The linear equiv induced by the equality `toModuleCat (toMatrixModCat M) = Eᵢᵢ • Mⁿ` -/
+def fromModuleCatToModuleCatLinearEquivtoModuleCatObj (M : Type*) [AddCommGroup M] [Module R M] :
+    (ModuleCat.toMatrixModCat R ι ⋙ MatrixModCat.toModuleCat R ι).obj (.of R M) ≃ₗ[R]
+    MatrixModCat.toModuleCatObj R (ι := ι) (ι → M) default where
+  __ := AddEquiv.refl _
+  map_smul' r x := by
+    dsimp at x ⊢
+    ext i
+    change (Matrix.scalar ι r • x.1) i = r • x.1 i
+    simp [Matrix.scalar_apply, Matrix.diagonal_apply]
```
Comment (eric-wieser) [inline Mathlib/RingTheory/Morita/Matrix.lean]: There's a lemma missing here too; that `Matrix.scalar ι r • x = r • x`

File: Mathlib/RingTheory/Morita/Matrix.lean (hunk 21 above)
Comment (Whysoserioushah) [reply Mathlib/RingTheory/Morita/Matrix.lean]: sure

Comment (Whysoserioushah) [reply Mathlib/RingTheory/Morita/Matrix.lean]: added

File: Mathlib/RingTheory/Morita/Matrix.lean (hunk 22 above)
Comment (Whysoserioushah) [reply Mathlib/RingTheory/Morita/Matrix.lean]: added

File: Mathlib/LinearAlgebra/Matrix/Module.lean [hunk 23]
```diff
@@ -57,6 +56,19 @@ lemma smul_def' (N : Matrix ι ι R) (v : ι → M) : N • v = ∑ j : ι, fun
...
+theorem single_smul (i j : ι) (r : R) (v : ι → M) :
+    Matrix.single i j r • v = Pi.single i (r • v j) := by
+  ext i'
+  dsimp
+  rw [Fintype.sum_eq_single j fun j' hj => ?_]
+  · obtain rfl | hi := eq_or_ne i i' <;> simp [*]
+  · simp [hj.symm]
+
+lemma scalar_smul_apply (r : R) (v : ι → M) (i : ι) :
+    ((Matrix.scalar ι r) • v) i = r • v i := by
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Matrix/Module.lean]:
```suggestion
lemma scalar_smul (r : R) (v : ι → M) :
    Matrix.scalar ι r • v = r • v := by
  ext i
```

File: Mathlib/RingTheory/Morita/Matrix.lean [hunk 24]
```diff
@@ -35,3 +36,103 @@ def ModuleCat.toMatrixModCat : ModuleCat R ⥤ ModuleCat (Matrix ι ι R) where
...
+/-- auxilary isomorphism showing that compose two functors gives `id` on objects. -/
+@[simps]
+def fromModuleCatToModuleCatLinearEquiv (M : Type*) [AddCommGroup M] [Module R M] (i : ι) :
+    MatrixModCat.toModuleCatObj R (ι → M) i ≃ₗ[R] M where
+  toFun x := ∑ i : ι, x.1 i
+  map_add' := by simp [Finset.sum_add_distrib]
+  map_smul' r := fun ⟨x, hx⟩ ↦ by simp [Finset.smul_sum]
+  invFun x := ⟨Pi.single i x, Function.const ι x, by
+    ext j
+    simp [-Module.smul_apply]⟩
```
Comment (eric-wieser) [inline Mathlib/RingTheory/Morita/Matrix.lean]:
```suggestion
  invFun x := ⟨Pi.single i x, Function.const ι x, by simp⟩
```

File: Mathlib/RingTheory/Morita/Matrix.lean [hunk 25]
```diff
@@ -35,3 +36,103 @@ def ModuleCat.toMatrixModCat : ModuleCat R ⥤ ModuleCat (Matrix ι ι R) where
...
+    obtain ⟨y, hy⟩ := mem_toModuleCatObj i|>.1 hx
+    ext j
+    simp only [Pi.single_apply]
+    split_ifs with h
+    · simp only [← hy, single, smul_def, of_apply, ite_smul, one_smul, zero_smul, h,
+      true_and, Finset.sum_ite_eq, Finset.mem_univ, ↓reduceIte]
+      rw [Finset.sum_eq_single i (by
+        simpa using fun b hb ↦ Finset.sum_eq_zero (ι := ι) (by grind)) (by simp)]
+      simp
+    · simp [← hy, single, Ne.symm h]
```
Comment (eric-wieser) [inline Mathlib/RingTheory/Morita/Matrix.lean]: Does `simp_all` work here?

Comment (eric-wieser) [reply Mathlib/RingTheory/Morita/Matrix.lean]: Certainly there should now be a proof that doesn't start with `ext`

File: Mathlib/LinearAlgebra/Matrix/Module.lean [hunk 26]
```diff
@@ -57,6 +56,20 @@ lemma smul_def' (N : Matrix ι ι R) (v : ι → M) : N • v = ∑ j : ι, fun
...
+@[simp]
+theorem single_smul (i j : ι) (r : R) (v : ι → M) :
+    Matrix.single i j r • v = Pi.single i (r • v j) := by
+  ext i'
+  dsimp
+  rw [Fintype.sum_eq_single j fun j' hj => ?_]
+  · obtain rfl | hi := eq_or_ne i i' <;> simp [*]
+  · simp [hj.symm]
+
+lemma scalar_smul (r : R) (v : ι → M) :
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Matrix/Module.lean:74]:
```suggestion
@[simp]
lemma scalar_smul (r : R) (v : ι → M) :
```

File: Mathlib/RingTheory/Morita/Matrix.lean (hunk 25 above)
Comment (Whysoserioushah) [reply Mathlib/RingTheory/Morita/Matrix.lean]: > Does `simp_all` work here?

no I just tried :-(

File: Mathlib/LinearAlgebra/Matrix/Module.lean [hunk 27]
```diff
@@ -57,6 +56,21 @@ lemma smul_def' (N : Matrix ι ι R) (v : ι → M) : N • v = ∑ j : ι, fun
...
+@[simp]
+theorem single_smul (i j : ι) (r : R) (v : ι → M) :
+    Matrix.single i j r • v = Pi.single i (r • v j) := by
+  ext i'
+  dsimp
+  rw [Fintype.sum_eq_single j fun j' hj => ?_]
+  · obtain rfl | hi := eq_or_ne i i' <;> simp [*]
+  · simp [hj.symm]
+
+@[simp]
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Matrix/Module.lean:68]: I guess you should add a copy for the simp-normal form as well.

File: Mathlib/RingTheory/Morita/Matrix.lean (hunk 25 above)
Comment (eric-wieser) [reply Mathlib/RingTheory/Morita/Matrix.lean]: This works:
```suggestion
    rw [single_smul] at hy
    simp [← hy]
```

File: Mathlib/RingTheory/Morita/Matrix.lean [hunk 28]
```diff
@@ -35,3 +36,103 @@ def ModuleCat.toMatrixModCat : ModuleCat R ⥤ ModuleCat (Matrix ι ι R) where
...
+def fromModuleCatToModuleCatLinearEquivtoModuleCatObj (M : Type*) [AddCommGroup M] [Module R M] :
+    (ModuleCat.toMatrixModCat R ι ⋙ MatrixModCat.toModuleCat R ι).obj (.of R M) ≃ₗ[R]
+    MatrixModCat.toModuleCatObj R (ι := ι) (ι → M) default where
+  __ := AddEquiv.refl _
+  map_smul' r x := by
+    dsimp at x ⊢
+    ext i
+    change ((Matrix.scalar ι r) • x.1) i = r • x.1 i
+    rw [Matrix.Module.scalar_smul]
+    rfl
```
Comment (eric-wieser) [inline Mathlib/RingTheory/Morita/Matrix.lean]:
```suggestion
  map_smul' r x := Subtype.ext <| scalar_smul _ _
```

File: Mathlib/LinearAlgebra/Matrix/Module.lean (hunk 27 above)
Comment (Whysoserioushah) [reply Mathlib/LinearAlgebra/Matrix/Module.lean:68]: sorry I don't really follow, what do you want me to add?

Comment (eric-wieser) [reply Mathlib/LinearAlgebra/Matrix/Module.lean:68]: The linter is saying "I can simplify the LHS from `X` to `X'`". This means you should add a simo lemma that says `X' <-> Y`, so that `X` still simplifies to `Y`

Comment (Whysoserioushah) [reply Mathlib/LinearAlgebra/Matrix/Module.lean:68]: done!

File: Mathlib/LinearAlgebra/Matrix/Module.lean [hunk 29]
```diff
@@ -66,10 +66,14 @@ theorem single_smul (i j : ι) (r : R) (v : ι → M) :
   · simp [hj.symm]
 
 @[simp]
+lemma diagonal_smul (r : R) (v : ι → M) :
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Matrix/Module.lean]:
```suggestion
lemma diagonal_const_smul (r : R) (v : ι → M) :
```

File: Mathlib/LinearAlgebra/Matrix/Module.lean [hunk 30]
```diff
@@ -66,10 +66,14 @@ theorem single_smul (i j : ι) (r : R) (v : ι → M) :
...
+    Matrix.diagonal (n := ι) (fun _ ↦ r) • v = r • v := by
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Matrix/Module.lean]: Nit:
```suggestion
    diagonal (fun _ : ι ↦ r) • v = r • v := by
```

File: Mathlib/RingTheory/Morita/Matrix.lean [hunk 31]
```diff
@@ -35,3 +36,91 @@ def ModuleCat.toMatrixModCat : ModuleCat R ⥤ ModuleCat (Matrix ι ι R) where
...
+  [IsScalarTower R (Matrix ι ι R) M]
+
+variable {ι} (M) in
+/-- The image of `Eᵢᵢ` (the elementary matrix) acting on all elements in `M`. -/
+def toModuleCatObj (i : ι) : Submodule R M :=
+  LinearMap.range (τ₁₂ := .id _) <|
+    { __ := DistribMulAction.toAddMonoidHom M (single i i 1 : Matrix ι ι R)
+      map_smul' r x := by
+        dsimp
+        rw [← smul_assoc r, Matrix.smul_eq_diagonal_mul, show (diagonal fun x : ι ↦ r) *
```
Comment (eric-wieser) [inline Mathlib/RingTheory/Morita/Matrix.lean]: Could you extract this `show` to a `have`?

**Review by eric-wieser — APPROVED** [review]
bors d+

Thanks for your patience here! I know It may seem annoying to slow things down for golfing, but this isn't just about making things shorter; it's about spotting intermediate lemmas that will be helpful again elsewhere!

File: Mathlib/RingTheory/Morita/Matrix.lean (hunk 31 above)
Comment (Whysoserioushah) [reply Mathlib/RingTheory/Morita/Matrix.lean]: extracted, do you think it's worth to become a lemma?

Comment (eric-wieser) [reply Mathlib/RingTheory/Morita/Matrix.lean]: I guess we should have the lemma that states when `scalar` commutes; though we may already have it.

Comment (Whysoserioushah) [reply Mathlib/RingTheory/Morita/Matrix.lean]: we do have `Matrix.scalar_commute` and `Matrix.scalar_commute_iff`, but they all require additional assumptions, this is sort of a special case I guess?

Comment (Whysoserioushah) [reply Mathlib/RingTheory/Morita/Matrix.lean]: I'd argue that it's still valuable to have it

Comment (eric-wieser) [reply Mathlib/RingTheory/Morita/Matrix.lean]: Maybe a version of Matrix.scalar_commute_iff expressed in terms of commuting elements?

Comment (Whysoserioushah) [reply Mathlib/RingTheory/Morita/Matrix.lean]: I think this particular PR is good as it is now

Comment (Whysoserioushah) [reply Mathlib/RingTheory/Morita/Matrix.lean]: maybe leave that for another PR :-)

Comment (Whysoserioushah) [reply Mathlib/RingTheory/Morita/Matrix.lean]: thanks for your review!
